US08957093B2
(S)—N-(1-(3-Isopropylphenyl)ethyl)-2,3-dimethyl-1-((2′-((methylsulfonyl)carbamoyl)-[1,1′-biphenyl]-4-yl)methyl)-1H-indole-5-carboxamide
The mixture of (S)-4′-((5-((1-(3-isopropylphenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid (30 mg, 0.055 mmol), methanesulfonamide (15 mg, 0.16 mmol), EDAC (25 mg, 0.13 mmol) and DMAP (26 mg, 0.21 mmol) in DMF (3 mL) was stirred at rt for 15 h. The solvent was removed and the residue was purified by reverse phase prep-HPLC (MeOH/Acetonitrile/water) to obtain the title compound. ESI-MS (m/z): 622 [M+H]+.

reactant | (S)-4′-((5-((1-(3-isopropylphenyl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid | 0.055 mmol, 30 mg | C(C)(C)C=1C=C(C=CC1)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C)C | C36H36N2O3
reactant | methanesulfonamide | 0.16 mmol, 15 mg | CS(=O)(=O)N | CH5NO2S
reactant | EDAC | 0.13 mmol, 25 mg | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | 0.21 mmol, 26 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (S)—N-(1-(3-Isopropylphenyl)ethyl)-2,3-dimethyl-1-((2′-((methylsulfonyl)carbamoyl)-[1,1′-biphenyl]-4-yl)methyl)-1H-indole-5-carboxamide | C(C)(C)C=1C=C(C=CC1)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(NS(=O)(=O)C)=O)C)C | C37H39N3O4S
